US20010027193A1
Methyl 5-({1-[bis(4-chlorophenyl)methyl]-azetidin-3-ylidene}methylsulfonylmethyl)thien-2-yl-carboxylate may be obtained in the following manner: 5.15 g of methyl 5-(methylsulfonylmethyl)thien-2-ylcarboxylate are added, at room temperature under an argon atmosphere, to a solution of 6.12 g of 1-[bis(4-chlorophenyl)methyl]azetidin-3-one in 200 cm3 of tetrahydrofuran and then the suspension obtained is cooled to −70° C. There are successively added 2.47 g of potassium tert-butoxide, and then after 1 hour 30 min at this temperature a solution of 1.7 cm3 of methylsulfonylchloride in 8 cm3 of ethyl ether over 2 minutes. The reaction medium is maintained for 1 hour at −70° C. and then the temperature is allowed to rise to around 20° C. before pouring in 80 cm3 of distilled water. The tetrahydrofuran is expelled under reduced pressure and the aqueous residue obtained is extracted with 500 cm3 of dichloromethane. The mixture is separated after settling, the organic phase is washed with 3 times 80 cm3 of distilled water, dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue obtained is purified by flash chromatography on silica gel [eluent: cyclohexane/ethyl acetate (70/30 by volume)]. 1.6 g of methyl 5-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methylsulfonylmethyl)thien-2-ylcarboxylate are obtained in the form of a cream-colored foam.

reactant | methyl 5-(methylsulfonylmethyl)thien-2-ylcarboxylate | 5.15 g | CS(=O)(=O)CC1=CC=C(S1)C(=O)OC | C8H10O4S2
reactant | 1-[bis(4-chlorophenyl)methyl]azetidin-3-one | 6.12 g | ClC1=CC=C(C=C1)C(N1CC(C1)=O)C1=CC=C(C=C1)Cl | C16H13Cl2NO
reactant | potassium tert-butoxide | 2.47 g | CC(C)([O-])C.[K+]
reactant | methylsulfonylchloride | 1.7 cm3 | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 200 cm3 | O1CCCC1 | C4H8O
solvent | ethyl ether | 8 cm3 | C(C)OCC | C4H10O
solvent | water | 80 cm3 | O | H2O
product | methyl 5-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methylsulfonylmethyl)thien-2-ylcarboxylate | 1.6 g | ClC1=CC=C(C=C1)C(N1CC(C1)=CS(=O)(=O)CC1=CC=C(S1)C(=O)OC)C1=CC=C(C=C1)Cl | C24H21Cl2NO4S2
